US04598077
To 5 g of 3-bromomethyl-4-methoxybenzonitrile, were added 6.2 g of hexamethylenetetramine, 10 ml of acetic acid, and 10 ml of water. The mixture was heated under reflux for 2 hours. After addition of 10 ml of concentrated hydrochloric acid, the mixture was further refluxed for 15 minutes. The reaction mixture was cooled in ice and extracted with 200 ml of ethyl acetate. The ethyl acetate layer was washed twice with 200 ml of water, then with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to yield 1.6 g of 3-cyano6-methoxybenzaldehyde; m.p. 119°-120° C.

reactant | 3-bromomethyl-4-methoxybenzonitrile | 5 g | BrCC=1C=C(C#N)C=CC1OC | C9H8BrNO
reactant | hexamethylenetetramine | 6.2 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 3-cyano6-methoxybenzaldehyde | 1.6 g | C(#N)C=1C=C(C=O)C(=CC1)OC | C9H7NO2
